US06048992
(2,3,4,5-Tetramethylcyclopentadienyl)lithium (1.33 g, 10.37 mmol) was dissolved in 80 mL THF and cooled to -78° C., and MeSiCl3 (1.70 g, 11.4 mmol) was added via a syringe. After addition, the cooling bath was removed and the reaction mixture was stirred at room temperature for 16 h. Volatiles were removed under vacuum at room temperature, and the residue was extracted twice with hexanes (2×20 mL). The hexane fractions were combined and the solvent was removed under vacuum to give a pale yellow oil (tetramethylcyclopentadienyl methyl silicon dichloride); 2.0 g, 82% yield. 1H-NMR (C6D6): δ(ppm): 2.95 (broad s, 1 H; Me4CpH), 1.92 (s, 6H;), 1.63 (s, 6H; Me4Cp), 0.19 (s, 3 H; MeSi).

reactant | (2,3,4,5-Tetramethylcyclopentadienyl)lithium | 10.37 mmol, 1.33 g | CC=1C(C(=C(C1C)C)C)[Li]
reactant | MeSiCl3 | 11.4 mmol, 1.70 g | C[Si](Cl)(Cl)Cl | CH3Cl3Si
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | tetramethylcyclopentadienyl methyl silicon dichloride | 82% yield | CC1=C(C(=C(C1[Si](C)(Cl)Cl)C)C)C | C10H16Cl2Si
